US08809377B2
2-Cyano-N-(1-(4-(methoxymethoxy)phenyl)butyl)acetamide (5)
Oxalyl chloride (1.03 g, 8.15 mmol) was added drop-wise at ice bath temperature under nitrogen to a stirred solution of cyanoacetic acid (0.67 g, 7.9 mmol) in tetrahydrofuran (15 mL) to which 1-2 drops of DMF had been added. The mixture was stirred for an hour, then added slowly in one portion to a stirred solution of 1-(4-(methoxymethoxy)phenyl)butan-1-amine (1.1 g, 5.3 mmol) in THF (15 mL) at ice bath temperature under nitrogen. The mixture was allowed to warm gradually to room temperature and after 20 hours was stirred into 50 mL of saturated aq sodium bicarbonate and extracted 3× with dichloromethane. The combined extracts were washed with saturated brine, dried over magnesium sulfate, and concentrated in vacuo, leaving 1.5 g of dark violet syrup. The product was flash chromatographed on a column (50×70 mm) of silica gel (43-60 μm) eluting with Hxa/EtOAc 1:1 to afford 1.0 g (69%) of clear, dark oil; homogeneous by TLC.

reactant | Oxalyl chloride | 8.15 mmol, 1.03 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyanoacetic acid | 7.9 mmol, 0.67 g | C(#N)CC(=O)O | C3H3NO2
reactant | 1-(4-(methoxymethoxy)phenyl)butan-1-amine | 5.3 mmol, 1.1 g | COCOC1=CC=C(C=C1)C(CCC)N | C12H19NO2
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
catalyst | DMF | 1-2 drops | CN(C)C=O | C3H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-Cyano-N-(1-(4-(methoxymethoxy)phenyl)butyl)acetamide | 1.5 g | C(#N)CC(=O)NC(CCC)C1=CC=C(C=C1)OCOC | C15H20N2O3
